US05856346
Example 2: Propionoxymethyl methyl 4-(2',3'-dichlorophenyl)-2,6-dimethyl-1 ,4-dihydropyridine-3,5-dicarboxylate
To a stirred mixture of 1,4-dihydro-2,6-dimethyl-4-(2',3'-dichorophenyl)-5-carboxymethyl-3-pyridinecarboxylic acid (5 g,14 mmol) and sodium hydride (0.6 g, 14 mmol) in DMF (25 ml) under nitrogen atmosphere was added chloromethyl propionate (1.71 g, 14 mmol). The reaction mixture was heated at 80° C. for 16 h. Workup by evaporation of solvent and addition of water. Extraction with dichloromethane, the extract was dried over sodium sulfate and concentrated. The resulting yellow crystals was subjected to flash chromatography [silica gel, dichloromethane - dichloromethane/methanol (9/1) gradient] to give pale yellow crystals (2.21 g, 36%), mp.123.8°-125.5° C. 1H-NMR (CDCl3): 7.30-7.03 (Ar, 3H); 5.97 (s, 1H); 5.75 (d, J=5.5 Hz, 1H); 5.72 (d, J=5.5 Hz, 1H); 5.46 (s, 1H); 3.60 (s, 3H); 2.34-2.25 (m, 8H); 1.09 (t, J=7.5 Hz, 3H). 13C-NMR (CDCl3): 173.11; 167.65; 165.83; 147.47; 146.70; 143.87; 132.86; 131.14; 129.83; 128.30; 126.96; 103.95; 101.94; 78.70; 50.92; 38.45; 27.25; 19.86; 19.25; 8.61.

reactant | 1,4-dihydro-2,6-dimethyl-4-(2',3'-dichorophenyl)-5-carboxymethyl-3-pyridinecarboxylic acid | 14 mmol, 5 g | CC=1NC(=C(C(C1C(=O)O)C1=C(C(=CC=C1)Cl)Cl)CC(=O)O)C | C16H15Cl2NO4
reactant | sodium hydride | 14 mmol, 0.6 g | [H-].[Na+]
reactant | chloromethyl propionate | 14 mmol, 1.71 g | C(CC)(=O)OCCl | C4H7ClO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Propionoxymethyl methyl 4-(2',3'-dichlorophenyl)-2,6-dimethyl-1 ,4-dihydropyridine-3,5-dicarboxylate | 2.21 g, 36% | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OCOC(CC)=O | C20H21Cl2NO6
